US07759369B2
(a). 3,6-Dimethyl-2-pyridinecarbonitrile 1-oxide
To a solution of 3,6-dimethyl-2-pyridinecarbonitrile (8.20 g, may be prepared as described in Russell et al., J. Med. Chem., 48(5), 1367, (2005)) in chloroform (60 ml) was added dropwise a solution of m-chloroperbenzoic acid (20 g) in chloroform (210 ml) and the solution stirred at ambient temperature for 7 hours. Sodium sulphite (2.4 g) was added and the mixture stirred for 1.5 hours, filtered and the solid washed with dichloromethane. The filtrate was washed with saturated sodium bicarbonate (120 ml) and water (120 ml), dried (MgSO4) and concentrated in vacuo. The residue was recrystallised from ether to afford the title compound (5.28 g, 58%) as a pale yellow solid.

reactant | 3,6-dimethyl-2-pyridinecarbonitrile | 8.20 g | CC=1C(=NC(=CC1)C)C#N | C8H8N2
reactant | m-chloroperbenzoic acid | 20 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Sodium sulphite | 2.4 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 210 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,6-Dimethyl-2-pyridinecarbonitrile 1-oxide | 5.28 g, 58% | CC1=C([N+](=C(C=C1)C)[O-])C#N | C8H8N2O
